### PR TITLE
feat(Wikipedia): Dedekind numbers for n ≥ 10

### LINKED ISSUE #2360: Dedekind Numbers for n ≥ 10
### What is the conjecture

 A Dedekind number $M(n)$ is the number of monotone Boolean functions on $n$ variables. Equivalently, $M(n)$ counts the number of antichains in the Boolean lattice $2^{[n]}$ (all subsets of an $n$-element set, ordered by inclusion). For example, $M(0) = 2$, $M(1) = 3$, $M(2) = 6$, and $M(3) = 20$. The first few values grew slowly: $M(4) = 168$, $M(5) = 7581$, but then rapidly: $M(6) = 7828354$, $M(7) = 2414682040998$, $M(8) = 56286674523351680$, and $M(9) = 286386577668298411128469151667200$ (computed in 2023). The problem is to determine the exact values of $M(n)$ for $n \geq 10$. Currently, only bounds are known: $M(10) \geq 2^{252} \approx 7.237 \times 10^{75}$, with an upper bound of approximately $1.8 \times 10^{308}$, but the exact value remains unknown.

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - https://en.wikipedia.org/wiki/Dedekind_number, https://mathworld.wolfram.com/DedekindNumber.html, https://www.mathpages.com/home/kmath030.htm, https://arxiv.org/abs/2304.00895, https://www.scientificamerican.com/article/mathematicians-discover-long-sought-dedekind-number/

### Prerequisites needed

**Formalizability Rating:** 2/5 (0 is best) (as of 2026-02-19)

Building blocks (1-3; from search results):
- Basic order theory concepts (lattices, antichains) exist in Mathlib
- Combinatorics and cardinality functions are standard
- Boolean lattice structures can be represented via Finset and Set operations

Requires formalizing one of the definitions of the Dedekind Numbers.

Rating justification (1-2 sentences): While the mathematical statement itself could be encoded using Mathlib's lattice and finite set structures, the problem is fundamentally computational—determining exact integer values for very large numbers. Formalizing the statement requires defining monotone Boolean functions and their count, but most of the difficulty lies in the computational verification, which would need specialized algorithms beyond standard Mathlib definitions.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-06

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

---
This issue was generated by an AI agent and reviewed by me.

See more information here: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Custom.20Agent.20for.20Issue.20Generation/with/569221879)

Feedback on mistakes/hallucinations: [link](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Issue.20Agent.20Feedback.20Topic/with/569223911)

### PR DESCRIPTION
**Pull request by parabamoghv**
Resolves #2360 

Defined Dedekind numbers using Boolean functions as well as using antichains. Showed the values for smaller numbers and showed that the two definitions agree. 

Co-authored-by: Aristotle (Harmonic) [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun)

### CODE REVIEW

File: FormalConjectures/Wikipedia/DedekindNumber.lean [hunk 1]
```diff
@@ -0,0 +1,231 @@
...
+
+We formalize two definitions:
+- `M n`: the number of monotone Boolean functions `(Fin n → Bool) → Bool`
+- `M' n`: the number of antichains (Sperner families) of `Finset (Fin n)`
+
+We prove their values for small `n` and show that the two definitions agree for all `n`.
+
+The problem is to determine the exact values of $M(n)$ for $n ≥ 10$. In particular, the value of $M(10)$ is currently unknown.
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Dedekind_number)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DedekindNumber.lean]:
```suggestion
*References:* 
- [Wikipedia](https://en.wikipedia.org/wiki/Dedekind_number)
- [Oeis/A372](https://oeis.org/A000372)
```

File: FormalConjectures/Wikipedia/DedekindNumber.lean [hunk 2]
```diff
@@ -0,0 +1,231 @@
...
+    {f : (Fin n → Bool) → Bool // Monotone f} ≃
+    {A : Finset (Finset (Fin n)) // IsSperner A} where
+  toFun := fun ⟨f, hf⟩ => ⟨toSperner f, toSperner_isSperner f hf⟩
+  invFun := fun ⟨A, hA⟩ => ⟨fromSperner A, fromSperner_monotone A hA⟩
+  left_inv := fun ⟨f, hf⟩ => Subtype.ext (fromSperner_toSperner f hf)
+  right_inv := fun ⟨A, hA⟩ => Subtype.ext (toSperner_fromSperner A hA)
+
+@[category test, AMS 5 6]
+theorem M_eq_M' (n : ℕ) : M n = M' n :=
+  Fintype.card_congr (equivMonotoneSperner n)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DedekindNumber.lean]:
```suggestion
@[category test, AMS 5 6]
theorem M_eq_M' : M  = M' := by
  ext n
  exact Fintype.card_congr (equivMonotoneSperner n)
```

File: FormalConjectures/Wikipedia/DedekindNumber.lean [hunk 3]
```diff
@@ -0,0 +1,231 @@
...
+
+/--
+  The Dedekind numbers for `n ≥ 10` are currently unknown.
+-/
+@[category research open, AMS 5 6]
+theorem Dedekind_n (n : ℕ) (_ : n ≥ 9) : M n = answer(sorry) := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DedekindNumber.lean:236]:
```suggestion
/--
  No closed form for the Dedekind numbers are currently unknown.
-/
@[category research open, AMS 5 6]
theorem DedekindNumbers : M = answer(sorry) := by
  sorry
```

File: FormalConjectures/Wikipedia/DedekindNumber.lean [hunk 4]
```diff
@@ -0,0 +1,231 @@
...
+A Dedekind number `M(n)` counts the number of monotone Boolean functions on `n` variables,
+or equivalently, the number of antichains (Sperner families) in the Boolean lattice `2^[n]`.
+
+For example,
+$$M ( 0 ) = 2 , M ( 1 ) = 3 , M ( 2 ) = 6 , and M ( 3 ) = 20 .$$
+The first few values grew slowly:
+$$M ( 4 ) = 168 , M ( 5 ) = 7581$$,
+but then rapidly:
+$$M ( 6 ) = 7828354 , M ( 7 ) = 2414682040998 , M ( 8 ) = 56286674523351680$$, and
+$$M ( 9 ) = 286386577668298411128469151667200$$
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DedekindNumber.lean]:
```suggestion
$$M ( 9 ) = 286386577668298411128469151667598498812366$$
```
according to oeis

File: FormalConjectures/Wikipedia/DedekindNumber.lean [hunk 5]
```diff
@@ -0,0 +1,231 @@
...
+@[category API, AMS 6]
+lemma fromSperner_monotone {n : ℕ} (A : Finset (Finset (Fin n))) (_ : IsSperner A) :
+    Monotone (fromSperner A) := by
+      intro v w hvw hfv
+      obtain ⟨s, hsA, hs⟩ : ∃ s ∈ A, s ⊆ supp v := by
+        unfold fromSperner at hfv;
+        simp_all +decide [ Finset.subset_iff, mem_supp_iff ];
+      have hs_w : s ⊆ supp w := by
+        intro i hi; have := hs hi; simp_all +decide [ Finset.subset_iff, mem_supp_iff ] ;
+        exact?;
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DedekindNumber.lean]:
```suggestion
        exact Bool.eq_false_imp_eq_true.mp fun a ↦ hvw i (hs hi)
```

File: FormalConjectures/Wikipedia/DedekindNumber.lean [hunk 6]
```diff
@@ -0,0 +1,231 @@
...
+    exact Fintype.decidableForallFintype
+
+/-- $M(n)$ is the number of monotone Boolean functions on $n$ variables. -/
+def M (n : ℕ) : ℕ :=
+  Fintype.card {f : (Fin n → Bool) → Bool // Monotone f}
+
+/-- A Sperner family (antichain) of subsets of `Fin n`: a family of sets such that
+    no member is a subset of another. -/
+def IsSperner {n : ℕ} (A : Finset (Finset (Fin n))) : Prop :=
+  ∀ s ∈ A, ∀ t ∈ A, s ⊆ t → s = t
```
Comment (mo271) [inline FormalConjectures/Wikipedia/DedekindNumber.lean]: This is just mathlib's `IsAntichain` right?!
If so, let's refactor to use this instead

**Comment by mo271** [comment]
Did something go wrong with the rebase/merge?

**Comment by parabamoghv** [comment]
No No! I was working on the AntiChain refactor. I have changed the IsSperner definition to match with the existing IsAntichain. Just pushed my changes.
